US04738975
To a solution of 5-trifluoromethyl-2-mercaptobenzimidazole (1.10 g), 1N-sodium hydroxide (7.2 ml), and methanol (5 ml) was added a solution of 2-bromomethyl-3,4-dimethoxypyridine (1.3 g) in methanol (35 ml) at room temperature over 10 minutes. The mixture was stirred for one hour, concentrated, and extracted with chloroform. The organic layer was washed with 1N-sodium hydroxide and then with water, dried, and evaporated. The residue was purified by column chromatography on silica gel (chloroform-ethyl acetate-acetone (1:1:0.1)) and recrestallized from chloroform-isopropyl ether, to give 2-[(3,4-dimethoxypyrid-2-yl)methylthio]-5-trifluoromethylbenzimidazole (310 mg) as white crystals.

reactant | 5-trifluoromethyl-2-mercaptobenzimidazole | 1.10 g | FC(C1=CC2=C(N=C(N2)S)C=C1)(F)F | C8H5F3N2S
reactant | sodium hydroxide | 7.2 ml | [OH-].[Na+]
reactant | 2-bromomethyl-3,4-dimethoxypyridine | 1.3 g | BrCC1=NC=CC(=C1OC)OC | C8H10BrNO2
solvent | methanol | 35 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 2-[(3,4-dimethoxypyrid-2-yl)methylthio]-5-trifluoromethylbenzimidazole | 310 mg | COC=1C(=NC=CC1OC)CSC=1NC2=C(N1)C=CC(=C2)C(F)(F)F | C16H14F3N3O2S
